US05948775
2-[4-(2-Chloro-ethoxy)-phenyl]-8-methoxy-3-(4-methoxy-phenyl)-2,3-dihydro-1H-quinazolin-4-one
To a solution of 20.05 g (0.0736 mol) of 2-amino-N-(4-methoxy-phenyl)-3-methoxy-benzamide in 400 mL of ethanol was added 13.6 g (0.0736 mol) of p-(2-chloro-ethoxy)-benzaldehyde (Frinton Labs), and 10 mL of acetic acid. The reaction mixture was stirred and heated to a mild reflux overnight. After cooling to room temperature, the solvent was evaporated in a rotary evaporator. The residue was dissolved in 300 mL of ethyl acetate and washed with water (4×100 mL). The organic phase was removed, dried over magnesium sulfate, filtered and evaporated to dryness in a rotary evaporator. The residual oil was placed under the vacuum pump, which yielded 26.0 g (mp 122-124° C.) of product.

reactant | 2-amino-N-(4-methoxy-phenyl)-3-methoxy-benzamide | 0.0736 mol, 20.05 g | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC=C1OC | C15H16N2O3
reactant | p-(2-chloro-ethoxy)-benzaldehyde | 0.0736 mol, 13.6 g | ClCCOC1=CC=C(C=O)C=C1 | C9H9ClO2
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 2-[4-(2-Chloro-ethoxy)-phenyl]-8-methoxy-3-(4-methoxy-phenyl)-2,3-dihydro-1H-quinazolin-4-one | 26.0 g | ClCCOC1=CC=C(C=C1)C1NC2=C(C=CC=C2C(N1C1=CC=C(C=C1)OC)=O)OC | C24H23ClN2O4
